US07612075B2
1-Allyl-4-(tert-butyloxycarbonyl)-piperazin-2-one (0.49 g, 2.0 mmol) is treated with (3-iodo-pyridin-4-yl)-carbamic acid tert-butyl ester (0.64 g, 2.0 mmol), Pd(OAc)2 (14 mg, 0.06 mmol), P(o-tol)3 (37 mg, 0.12 mmol), and Et3N (0.56 mmol) in a seal tube. The mixture is stirred at 100° C. overnight, then diluted with CH2Cl2 and washed H2O (2×). The CH2Cl2 layer is concentrated and the residue is chromatographed (5% MeOH/CH2Cl2) to give a mixture of two isomers (0.40 g, 0.92 mmol). The mixture is separated into its constituent isomers upon further chromatography (EtOAc) to give 4-[3-(4-tert-butoxycarbonylamino-pyridin-3-yl)-propenyl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester (90 mg, 0.21 mmol, higher Rf value) and 4-[3-(4-tert-butoxycarbonylamino-pyridin-3-yl)-allyl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester_(0.24 g, 0.56 mmol, lower Rf value). For the former: MS m/z 433 (M+1); 1H NMR (CDCl3, 300 MHz) δ8.38 (d, 1H), 8.28 (s, 1H), 7.93 (d, 1H), 7.48 (d, 1H), 6.67 (s, 1H), 5.10 (m, 1H), 4.15 (s, 2H), 3.70 (t, 2H), 3,46 (t, 2H), 3.39 (d, 2H), 1.48 (s, 9H), 1.45 (s, 9H). For the latter: MS m/z 433 (M+1); 1H NMR (CDCl3, 300 MHz) δ8.39 (s, 1H), 8.37 (d, 1H), 7.98 (d, 1H), 6.77 (s, 1H), 6.52 (d, 1H), 6.07 (m, 1H), 4.23 (d, 2H), 4.12 (s, 2H), 3,69 (t, 2H), 3.40 (t, 2H), 1.52 (s, 9H), 1.45 (s, 9H).

reactant | 1-Allyl-4-(tert-butyloxycarbonyl)-piperazin-2-one | 2.0 mmol, 0.49 g | C(C=C)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C12H20N2O3
reactant | (3-iodo-pyridin-4-yl)-carbamic acid tert-butyl ester | 2.0 mmol, 0.64 g | C(C)(C)(C)OC(NC1=C(C=NC=C1)I)=O | C10H13IN2O2
reactant | P(o-tol)3 | 0.12 mmol, 37 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | Et3N | 0.56 mmol | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.06 mmol, 14 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-[3-(4-tert-butoxycarbonylamino-pyridin-3-yl)-propenyl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 0.21 mmol, 90 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=CCC=1C=NC=CC1NC(=O)OC(C)(C)C)=O | C22H32N4O5
